simulator lang=spectre
global 0

ahdl_include "../submission/programmable_frequency_divider.va"

Vclk (clk_in 0) vsource type=pulse val0=0 val1=0.9 period=3.5n width=1.75n delay=0.8n rise=45p fall=45p
Vrst (rst 0) vsource type=pwl wave=[0 0.9 1.6n 0.9 1.7n 0 110n 0]
Ven (enable 0) vsource type=pwl wave=[0 0 4n 0 4.1n 0.9 64n 0.9 64.1n 0 75n 0 75.1n 0.9 110n 0.9]
Vn0 (n_0 0) vsource type=pwl wave=[0 0.9 20n 0.9 20.1n 0 46n 0 46.1n 0.9 88n 0.9 88.1n 0 110n 0]
Vn1 (n_1 0) vsource type=pwl wave=[0 0 30n 0 30.1n 0.9 58n 0.9 58.1n 0 92n 0 92.1n 0.9 110n 0.9]
Vn2 (n_2 0) vsource type=pwl wave=[0 0 44n 0 44.1n 0.9 82n 0.9 82.1n 0 110n 0]
Vn3 (n_3 0) vsource type=pwl wave=[0 0 90n 0 90.1n 0.9 110n 0.9]

XDUT (clk_in rst enable n_3 n_2 n_1 n_0 clk_div ratio_metric valid) programmable_frequency_divider


tran tran stop=110n maxstep=70p
save clk_in rst enable n_3 n_2 n_1 n_0 clk_div ratio_metric valid
