simulator lang=spectre
global 0

ahdl_include "../submission/qtz_differential_2level.va"

Vrefp (vrefp 0) vsource dc=0.4
Vrefn (vrefn 0) vsource dc=-0.4
Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 delay=0.2n period=1n width=0.45n rise=20p fall=20p
Vp (vinp 0) vsource type=pwl wave=[0 -0.25 1n -0.25 1.05n -0.05 2n -0.05 2.05n 0.18 3n 0.18 3.05n 0.30 4n 0.30]
Vn (vinn 0) vsource dc=0
XDUT (vinp vinn vrefp vrefn clk dout) qtz_differential_2level

tran tran stop=3.8n maxstep=10p
save clk dout vinn vinp vrefn vrefp
